US05073550
122 mg of 4-[[(aminooxy)methyl]sulphonyl]pyrocatechol were reacted with 236 mg of (6R,7R)-7-(2-amino-4-thiazoleglyoxylamido)-3-[[[2-(methoxycarbonyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid according to the procedure described in Example 7. The crude product obtained was suspended in 10 ml of water and brought into solution by the slow addition of 0.1N sodium hydroxide solution, with care being taken that the pH of the solution did not exceed 7. By chromatography on MCI gel CHP 20P using water as the elution agent as well as water/methanol mixtures with increasing amounts of methanol and lyophilization of the concentrated product fractions, there was obtained (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl]methoxy]imino]acetamido]-3-[[(2-(methoxycarbonyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1 -azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid monosodium salt as a white powder.

reactant | 4-[[(aminooxy)methyl]sulphonyl]pyrocatechol | 122 mg | NOCS(=O)(=O)C=1C=C(C(O)=CC1)O | C7H9NO5S
reactant | (6R,7R)-7-(2-amino-4-thiazoleglyoxylamido)-3-[[[2-(methoxycarbonyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 236 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C(=O)OC)C)=O | C21H18N8O7S3
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
reactant | water methanol | O.CO
solvent | water | 10 ml | O | H2O
solvent | methanol | CO | CH4O
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl]methoxy]imino]acetamido]-3-[[(2-(methoxycarbonyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1 -azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid monosodium salt | [Na+].NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)[O-])CSC1=CC(=NC=2N1N=C(N2)C(=O)OC)C)=N/OCS(=O)(=O)C2=CC(=C(C=C2)O)O | InChI=1S/C28H25N9O11S4.Na/c1-11-5-17(37-28(30-11)33-21(34-37)26(44)47-2)49-7-12-8-50-24-19(23(41)36(24)20(12)25(42)43)32-22(40)18(14-9-51-27(29)31-14)35-48-10-52(45,46)13-3-4-15(38)16(39)6-13;/h3-6,9,19,24,38-39H,7-8,10H2,1-2H3,(H2,29,31)(H,32,40)(H,42,43);/q;+1/p-1/b35-18-;/t19-,24-;/m1./s1
